US05378699
A mixture of 3,4-dihydro-1(2H)-naphthalenone (4.5 g) and 4-tertbutylbenzaldehyde (5.0 g) was stirred with a solution of 4% potassium hydroxide in methanol (100 ml) for 64 hours at room temperature. The mixture was neutralised with glacial acetic acid, followed by dilution with water (100 ml). The resulting copious white precipitate was filtered off, washed with water and dried in vacuo to give 2-(4-tertbutylbenzylidene)-3,4-dihydro-1(2H)-naphthalenone.

reactant | 3,4-dihydro-1(2H)-naphthalenone | 4.5 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | 4-tertbutylbenzaldehyde | 5.0 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-(4-tertbutylbenzylidene)-3,4-dihydro-1(2H)-naphthalenone | C(C)(C)(C)C1=CC=C(C=C2C(C3=CC=CC=C3CC2)=O)C=C1 | C21H22O
